US05171792
1,1-Divinyl-1-Silacyclopent-3-ene
In a 1 L three neck flask equipped with a Teflon covered magnetic stirring bar, reflux condenser and a pressure equalizing addition funnel. Vinyl magnesium bromide (0.5 mol) in THF 350 mL was placed in the reaction flask. The flask and its contents were cooled to 0° C. in an ice water bath. 1,1-Dichloro-1-silacyclopent-3-ene (Damrauer, R.; Simon, R.; Laporterie, A.; Manuel, G.; Park, Y. T.; Weber, W. P. J. Organomet. Chem., 1990, 391, 7) (11 g, 72 mmol) dissolved in 20 mL of THF was placed in the addition funnel and was added dropwise to reaction flask. The reaction was allowed to slowly warm to room temperature over 6 hours. The reaction mixture was poured into ice cold solution of saturated aqueous ammonium chloride. Ether (200 mL) was added and the organic layer was washed with an equal volume of water (3X). The organic layer was dried over anhydrous calcium chloride, filtered and the volatile organic solvents were removed by distillation through a 15 cm vacuum jacketed Bigreux column at atmospheric pressure. The product was distilled under reduced pressure. A fraction bp 43°-45° C./16 mm Hg, 9.4 g, 95% yield was obtained. 1H NMR: 1.44(d,4H,J=1 Hz), 5.87(t,2H,J=1 Hz), 5.81(dd,2H,J=20 and 3.9 Hz), 6.06(dd,2H,J=14.5 and 3.9 Hz), 6.22(dd,2H,J=20 and 14.5 Hz). 13C NMR: 15.46, 130.71, 134.00, 135.02. 29Si NMR: 1.56. IR: 3040, 3020, 2940, 2885, 1605, 1400, 1200, 1095, 1000., 950, 9430, 815, 795, 725, 690 cm-1. UV nm (): 207 (2.5×103). Anal. Calc. for C8H12Si: C, 70.51; H, 8.88. Found: C, 70.96; H, 9.06.

reactant | Vinyl magnesium bromide | 0.5 mol | C(=C)[Mg]Br
reactant | 1,1-Dichloro-1-silacyclopent-3-ene | Cl[Si]1(CC=CC1)Cl | C4H6Cl2Si
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Ether | 200 mL | CCOCC | C4H10O
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1,1-Divinyl-1-Silacyclopent-3-ene | 95% yield | C(=C)[Si]1(CC=CC1)C=C | C8H12Si
